US06191124B1
A suspension of 7-Methyl-imidazo[2,1-b]benzothiazole-3-methanol (Formula K-2) (0.82 g) in hot toluene (100 mL) was diluted with dioxane (10 mL) to effect dissolution of 7-Methyl-imidazo [2,1b]benzothiazole-3-methanol (Formula K-2). The solution was treated with activated MnO2 (1.64 g) and azeotropically distilled for 1.25 hours. The suspension was filtered, the cake was washed with hot ethyl acetate, and the filtrate was evaporated to a crystalline solid (0.69 g). Crystallization from isopropanol gave pure 7-Methyl-imidazo[2,1-b]benzothiazole-3-carboxaldehyde (Formula K-3) (0.56 g), m.p. 170-171°.

reactant | 7-Methyl-imidazo[2,1-b]benzothiazole-3-methanol | 0.82 g | CC1=CC2=C(N3C(S2)=NC=C3CO)C=C1 | C11H10N2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 1.64 g | O=[Mn]=O
product | 7-Methyl-imidazo[2,1-b]benzothiazole-3-carboxaldehyde | 0.56 g | CC1=CC2=C(N3C(S2)=NC=C3C=O)C=C1 | C11H8N2OS
